US08309725B2
1.8 Preparation of 1-[(4aRS,8SR,8aRS)-4-benzyl-8-(pyrrolidin-1-yl)perhydroquinoxalin-1-yl]-2-(3,4-dichlorophenyl)ethan-1-one
(4aRS,5SR,8aRS)-1-Benzyl-5-(pyrrolidin-1-yl)perhydroquinoxaline (325 mg, 1.09 mmol) was dissolved in abs. CH2Cl2 (35 ml). 2-(3,4-Dichlorophenyl)acetyl chloride (291 mg, 1.3 mmol) was added dropwise and the mixture was stirred at room temperature. After 30 minutes, 2 N NaOH (35 ml) was added and the mixture was stirred vigorously for 2 hours. The aqueous phase was separated off. The organic phase was extracted by shaking three times with HCl (1 N). The aqueous phase was then brought to pH 8 with NaOH (2 N) and extracted by shaking three times with CH2Cl2. The organic phases were dried over Na2SO4 and evaporated in vacuo. A pale yellow solid was obtained.

reactant | (4aRS,5SR,8aRS)-1-Benzyl-5-(pyrrolidin-1-yl)perhydroquinoxaline | 1.09 mmol, 325 mg | C(C1=CC=CC=C1)N1CCNC2C(CCCC12)N1CCCC1 | C19H29N3
reactant | 2-(3,4-Dichlorophenyl)acetyl chloride | 1.3 mmol, 291 mg | ClC=1C=C(C=CC1Cl)CC(=O)Cl | C8H5Cl3O
reactant | NaOH | 2 N, 35 ml | [OH-].[Na+]
solvent | CH2Cl2 | 35 ml | C(Cl)Cl | CH2Cl2
product | 1-[(4aRS,8SR,8aRS)-4-benzyl-8-(pyrrolidin-1-yl)perhydroquinoxalin-1-yl]-2-(3,4-dichlorophenyl)ethan-1-one | C(C1=CC=CC=C1)N1CCN(C2C(CCCC12)N1CCCC1)C(CC1=CC(=C(C=C1)Cl)Cl)=O | C27H33Cl2N3O
